US07622471B2
5-(4-Methoxyphenyl)-1-(6-methoxy-3-pyridyl)pyrazole-3-carboxylic acid ethyl ester
4-Methoxyacetophenone (300 mg) was dissolved in N,N-dimethylformamide (4 mL). 60% Sodium hydride (160 mg) was added to the resultant mixture at 0° C., followed by stirring at room temperature for 0.5 hours. Under cooling with ice, diethyl oxalate (542 μL) was added to the reaction mixture, followed by stirring at room temperature for 14 hours. 5-Hydrazino-2-methoxypyridine hydrochloride (406 mg) obtained from Referential Example 1 was added to the reaction mixture, followed by stirring at 80° C. for 3 hours. The mixture was cooled in air. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was sequentially washed with water and saturated brine. Subsequently, the organic layer was dried over sodium sulfate anhydrate, followed by filtration. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane-ethyl acetate), to thereby give the title compound as an oily substance (517 mg, 73%).

reactant | 4-Methoxyacetophenone | 300 mg | CC(=O)C1=CC=C(C=C1)OC | C9H10O2
reactant | Sodium hydride | 160 mg | [H-].[Na+]
reactant | diethyl oxalate | 542 μL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 5-Hydrazino-2-methoxypyridine hydrochloride | 406 mg | Cl.N(N)C=1C=CC(=NC1)OC
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 5-(4-Methoxyphenyl)-1-(6-methoxy-3-pyridyl)pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1)C1=CC=C(C=C1)OC)C=1C=NC(=CC1)OC | C19H19N3O4
